US08541575B2
4-hydroxy-N-(4-{3-[3-({[4-(trifluoromethyl)phenyl]carbamoyl}amino)phenyl]-1H-pyrazol-4-yl}pyridin-2-yl)butanamide (Cpd. no 43)
30 mg (0.068 mmol) of 1-{3-[4-(2-aminopyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-3-[4-(trifluoromethyl)phenyl]urea were dissolved in 2 ml of dry tetrahydrofuran and 15 μl (0.34 mmol) of γ-butyrolactone were added. The reaction mixture was cooled to 0° C. and a solution of 680 μl (0.68 mmol) of hexamethyldisilazane sodium salt 1M in THF in 2 ml of the same solvent were added dropwise. The mixture was maintained at 0° C. for 6 hours and at room temperature overnight, then partitioned between dichloromethane and water. The organic phase was dried over sodium sulphate and evaporated. The crude was finally purified by preparative HPLC in reverse phase conditions (basic eluant), giving 20 mg (59%) of the title compound.

reactant | 1-{3-[4-(2-aminopyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-3-[4-(trifluoromethyl)phenyl]urea | 0.068 mmol, 30 mg | NC1=NC=CC(=C1)C=1C(=NNC1)C=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F | C22H17F3N6O
reactant | γ-butyrolactone | 0.34 mmol, 15 μl | C1(CCCO1)=O | C4H6O2
reactant | hexamethyldisilazane sodium salt | 0.68 mmol, 1M, 680 μl | [Na].C[Si](N[Si](C)(C)C)(C)C
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 4-hydroxy-N-(4-{3-[3-({[4-(trifluoromethyl)phenyl]carbamoyl}amino)phenyl]-1H-pyrazol-4-yl}pyridin-2-yl)butanamide | 20 mg, 59% | OCCCC(=O)NC1=NC=CC(=C1)C=1C(=NNC1)C1=CC(=CC=C1)NC(NC1=CC=C(C=C1)C(F)(F)F)=O | C26H23F3N6O3
